US08957064B2
6-(4-fluorophenyl)-7-{4-[3-(5-pyridine-2-yl-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine
95 mg (0.35 mmol) 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 2.7 mL NMP. After addition of 0.1 mL triethylamine the reaction mixture is stirred for one hour. 100 mg (0.32 mmol) 4-[6-(4-Fluorophenyl)imidazo[1,2-a]pyrimidin-7-yl]-benzaldehyde and 0.03 mL acetic acid are added. The reaction mixture is stirred for three days at room temperature. 73 mg (0.35 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 18 hours. The reaction mixture is treated with saturated NaHCO3 and stirred vigorously for one hour. The precipitate is filtered off, washed with water and dried. After chromatography of the precipitate on silica gel (dichloromethane/methanol) 90 mg (54%) of the desired product are obtained.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine | 0.35 mmol, 95 mg | N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1 | C10H11N5
reactant | 4-[6-(4-Fluorophenyl)imidazo[1,2-a]pyrimidin-7-yl]-benzaldehyde | 0.32 mmol, 100 mg | FC1=CC=C(C=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H12FN3O
reactant | NaBH(OAc)3 | 0.35 mmol, 73 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 2.7 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.03 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
product | 6-(4-fluorophenyl)-7-{4-[3-(5-pyridine-2-yl-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine | FC1=CC=C(C=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2 | C29H23FN8
